US05547606
(Preparation of trans-4-(2-(trans-4-(p-n-propylphenyl)cyclohexyl) ethyl)-1-n-propyl-1-silacyclohexane)
The preparation was conducted in the same manner as in Example 33, except that 2.6 g (7.9 mmol) of 1-bromo-4-(2-(trans-4-n-propyl-4-silacyclohexyl)ethyl)cyclohexane and p-n-propylphenylmagnesium bromide were used instead of 2.5 g (7.9 mmol) of 1-chloro-4-(2-(trans-4-n-pentylcyclohexyl) ethyl)-1-silacyclohexane and 3,4-difluorophenylmagnesium bromide.

reactant | 1-bromo-4-(2-(trans-4-n-propyl-4-silacyclohexyl)ethyl)cyclohexane | 7.9 mmol, 2.6 g | BrC1CCC(CC1)CC[C@@H]1CC[Si@H](CC1)CCC | C16H31BrSi
reactant | p-n-propylphenylmagnesium bromide | C(CC)C1=CC=C(C=C1)[Mg]Br
reactant | 1-chloro-4-(2-(trans-4-n-pentylcyclohexyl) ethyl)-1-silacyclohexane | 7.9 mmol, 2.5 g | Cl[SiH]1CCC(CC1)CC[C@@H]1CC[C@H](CC1)CCCCC | C18H35ClSi
reactant | 3,4-difluorophenylmagnesium bromide | FC=1C=C(C=CC1F)[Mg]Br
product | trans-4-(2-(trans-4-(p-n-propylphenyl)cyclohexyl) ethyl)-1-n-propyl-1-silacyclohexane | C(CC)C1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[Si@H](CC1)CCC | C25H42Si
